US08119692B2
(S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hexanoic acid (Intermediate G2)
To a suspension of NaH (129 mg, 60% oil dispersion) in 20 mL THF was slowly added at room temperature the crude (S)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hexanoic acid isolated above as a solution in 10 mL THF. To this mixture was added dropwise methyl iodide (164 mL, 373.9 mg, 2.6 mmol) and the resulting stirred for 3 h at room temperature. The reaction was quenched by the slow addition of 15 mL 1M aqueous HCl and the mixture extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine (2×20 mL) and dried over sodium sulfate. Evaporation of solvent afforded the product as an oil which was used directly in the next reaction without further purification.

reactant | NaH | 129 mg | [H-].[Na+]
reactant | (S)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hexanoic acid | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)O)CCCC)O | C14H19FO3
reactant | methyl iodide | 2.6 mmol, 164 mL, 373.9 mg | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hexanoic acid | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)O)CCCC)OC | C15H21FO3
